US07429594B2
9-(2-Oxo-3-phenyl-propyl)-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A solution of 9-(2-hydroxy-3-phenyl-propyl)-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (50 mg, 0.1 mmol) in CH2Cl2 (5 mL) was treated with the Dess Martin Periodinane (450 mg, 1.1 mmol). After the mixture was stirred at room temperature for 5 hr, the mixture was washed with NaHCO3 (aq). The organic residue was loaded to a silica column and eluted with 0-4% (2N NH3-MeOH)/CH2Cl2. The product (4) was collected as a yellow solid (35 mg, 70%). M+1 505.

reactant | 9-(2-hydroxy-3-phenyl-propyl)-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.1 mmol, 50 mg | OC(CN1CCCN2C1=NC(=C(C2=O)C2=CC(=CC=C2)C(F)(F)F)C2=CC=NC=C2)CC2=CC=CC=C2 | C28H25F3N4O2
reactant | Dess Martin Periodinane | 1.1 mmol, 450 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 9-(2-Oxo-3-phenyl-propyl)-2-pyridin-4-yl-3-(3-trifluoromethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | O=C(CN1CCCN2C1=NC(=C(C2=O)C2=CC(=CC=C2)C(F)(F)F)C2=CC=NC=C2)CC2=CC=CC=C2 | C28H23F3N4O2
